US07709479B1
A mixture of N-benzoyl 2-methoxy-4-nitroaniline (2.63 g, 9.66 mmol) and tin (II) chloride (10.9 g, 48.3 .mmol) were heated in ethyl acetate (200 ml) at reflux for 4 hours under an inert atmosphere. The reaction was allowed to cool to ambient temperature and concentrated aqueous ammonia (20 ml) was added. The reaction was filtered, the solid material was washed with ethyl acetate (3×30 ml) and then the combined organic layers were evaporated in vacuo. The orange solid was dissolved in ethyl acetate (45 ml) and a 1.0 N solution of hydrogen chloride in diethyl ether (25 ml) was added, causing precipitation of a white solid. Recrystallisation of this solid from methanol/ethyl acetate, yielded N-benzoyl 2-methoxy-4-aminoaniline hydrochloride (1.06 g, 39% yield) as a white crystalline solid:

reactant | N-benzoyl 2-methoxy-4-nitroaniline | 9.66 mmol, 2.63 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])OC | C14H12N2O4
reactant | tin (II) chloride | 10.9 g | [Sn](Cl)Cl
reactant | ammonia | 20 ml | N | H3N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-benzoyl 2-methoxy-4-aminoaniline hydrochloride | 1.06 g, 39% yield | Cl.C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)N)OC | InChI=1S/C14H14N2O2.ClH/c1-18-13-9-11(15)7-8-12(13)16-14(17)10-5-3-2-4-6-10;/h2-9H,15H2,1H3,(H,16,17);1H
